US06455571B1
1C. (±)-(2S,3R,5R)-1-Benzyl-2-vinyl-3-(t-butyldimethylsilyloxymethyl)-pyrrolidine-5-carboxylic Acid t-Butyl Ester
A solution of (±)-(2S,3R,5R)-1-benzyl-2-vinyl-3-(hydroxymethyl)-pyrrolidine-5-carboxylic acid t-butyl ester (3.6 g, 11.4 mmole), tert-butyldimethylsilyl chloride (3.7 g, 24.5 mmole) and imidazole (2.8 g, 41.2 mmole) in 60 mL of DMF was stirred at room temperature for 1.5 hours. The reaction was diluted with ethyl acetate, washed with water and brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by chromatography on silica gel using 5% ethyl acetate/hexanes to provide the title compound, as a colorless oil (yield: 3.5 g, 71%).

reactant | (±)-(2S,3R,5R)-1-benzyl-2-vinyl-3-(hydroxymethyl)-pyrrolidine-5-carboxylic acid t-butyl ester | 11.4 mmole, 3.6 g | C(C)(C)(C)OC(=O)[C@H]1C[C@H]([C@@H](N1CC1=CC=CC=C1)C=C)CO | C19H27NO3
reactant | tert-butyldimethylsilyl chloride | 24.5 mmole, 3.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 41.2 mmole, 2.8 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-(2S,3R,5R)-1-Benzyl-2-vinyl-3-(t-butyldimethylsilyloxymethyl)-pyrrolidine-5-carboxylic Acid t-Butyl Ester | C(C)(C)(C)OC(=O)[C@H]1C[C@H]([C@@H](N1CC1=CC=CC=C1)C=C)CO[Si](C)(C)C(C)(C)C | C25H41NO3Si
